US08247429B2
3-(acetylamino)-6-bromo-2-nitrobenzoic acid
5-(Acetylamino)-2-bromobenzoic acid (5.00 g, 19.4 mmol) was gradually added to fuming nitric acid (10 mL) at 0° C., and the mixture was stirred at room temperature for 4 hr. Water was added to the reaction solution, and the precipitated crystals were collected by filtration to give the title compound (2.19 g, yield 37%).

reactant | 5-(Acetylamino)-2-bromobenzoic acid | 19.4 mmol, 5.00 g | C(C)(=O)NC=1C=CC(=C(C(=O)O)C1)Br | C9H8BrNO3
reactant | nitric acid | 10 mL | [N+](=O)(O)[O-] | HNO3
solvent | Water | O | H2O
product | 3-(acetylamino)-6-bromo-2-nitrobenzoic acid | 2.19 g, yield 37% | C(C)(=O)NC=1C(=C(C(=O)O)C(=CC1)Br)[N+](=O)[O-] | C9H7BrN2O5
